US06458772B1
To a solution of chloromethyl 5-(N-CBz-L-valyloxy)-4-stearoyloxy-2,2-dimethylvalerate (7.8 g, 11 mmol) in acetonitrile (100 mL), was added sodium iodide (6.5 g, 44 mmol). The solution was stirred for 4 h at 60° C. The resulting suspension was filtered and the filtrate was evaporated. The residue was dissolved in CH2Cl2 and washed with aqueous sodium thiosulfate (0.1 M). The organic phase was dried (NA2SO4) and concentrated under reduced pressure. The crude product was column chromatographed (silica gel, 1%MeOH in CH2Cl2), to give 7.84 g of iodomethyl 5-(N-CBz-L-valyloxy)-4-stearoyloxy-2,2-dimethylvalerate.

reactant | chloromethyl 5-(N-CBz-L-valyloxy)-4-stearoyloxy-2,2-dimethylvalerate | 11 mmol, 7.8 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCC(CC(C(=O)OCCl)(C)C)OC(CCCCCCCCCCCCCCCCC)=O | C39H64ClNO8
reactant | sodium iodide | 44 mmol, 6.5 g | [I-].[Na+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | iodomethyl 5-(N-CBz-L-valyloxy)-4-stearoyloxy-2,2-dimethylvalerate | 7.84 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCC(CC(C(=O)OCI)(C)C)OC(CCCCCCCCCCCCCCCCC)=O | C39H64INO8
